US07612211B2
C. 5-{2-[2-(tert-butyl-dimethyl-silanyloxy)-oxiranyl]-phenyl}-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole
To a solution of 5-{2-[1-(tert-butyl-dimethyl-silanyloxy)-vinyl]-phenyl}-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole (0.126 g, 0.240 mmol) in CH2Cl2 (5 mL) at rt was added m-chloroperoxybenzoic acid (77% max, 0.161 g, 0.720 mmol). After stirring 1 hour, the reaction mixture was concentrated, and the residue was purified by chromatography (silica, hexanes: EtOAc, 2:1) to afford the title compound as a colorless oil (0.115 g, 94%).

reactant | 5-{2-[1-(tert-butyl-dimethyl-silanyloxy)-vinyl]-phenyl}-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole | 0.240 mmol, 0.126 g | C(C)(C)(C)[Si](OC(=C)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1)(C)C | C29H31F3N2O2Si
reactant | m-chloroperoxybenzoic acid | 0.720 mmol, 0.161 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-{2-[2-(tert-butyl-dimethyl-silanyloxy)-oxiranyl]-phenyl}-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole | 0.115 g, 94% | C(C)(C)(C)[Si](OC1(OC1)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1)(C)C | C29H31F3N2O3Si
